US04363909
5 N Aqueous sodium hydroxide (20 cc) is added to a solution of (S)-3-[(5-ethoxycarbonylmethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]-isoquinoline (7.9 g) in ethanol (60 cc). The mixture is heated under reflux for two hours. After cooling to 20° C., it is acidified by adding 12 N hydrochloric acid (d=1.19; 10 cc). The resulting precipitate is filtered off and washed with water (3×50 cc) and then with ethanol (50 cc) and diethyl ether (20 cc). The product is recrystallised by dissolving it in dimethylformamide (15 cc) at 70° C., adding ethanol (80 cc) and cooling to 0° C. The resulting crystals are filtered off, washed with ethanol (50 cc) and then with diethyl ether (20 cc) and dried at 50° C. under reduced pressure (0.1 mm Hg; 0.013 kPa) to yield (S)-3-[(5-carboxymethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline hydrochloride (6.8 g), melting at about 240° C.

reactant | sodium hydroxide | 5 N, 20 cc | [OH-].[Na+]
reactant | (S)-3-[(5-ethoxycarbonylmethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]-isoquinoline | 7.9 g | C(C)OC(=O)CC1=CN=C(S1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C18H19N3O2S2
reactant | hydrochloric acid | 12 N, 10 cc | Cl | ClH
solvent | ethanol | 60 cc | C(C)O | C2H6O
product | (S)-3-[(5-carboxymethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline hydrochloride | 6.8 g | Cl.C(=O)(O)CC1=CN=C(S1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | InChI=1S/C16H15N3O2S2.ClH/c20-14(21)6-13-7-17-15(23-13)18-16-19-8-11-4-2-1-3-10(11)5-12(19)9-22-16;/h1-4,7,12H,5-6,8-9H2,(H,20,21);1H/t12-;/m0./s1
